US08119627B2
A solution of 4-[2-(4-chlorophenoxy)phenylcarbamoyl]piperidine-1-carboxylic acid tert-butyl ester (AMR01031, 410 mg, 0.95 mmol) in 4M HCl in dioxane (2 mL) was stirred at room temperature for 2 h. The resulting solution was concentrated under vacuum and the residue was dissolved in DCM, washed with 1M NaOH (1×20 mL), water and brine. The organic layer was dried (MgSO4), filtered and evaporated to give piperidine-4-carboxylic acid [2-(4-chlorophenoxy)phenyl]amide (233 mg, 74%) as a white solid (mp 138-140° C. from hexane/EtOAc), which was used in the next step without further purification. Rf: 0.11 (DCM/methanol 4:1 plus 3 drops of triethylamine) 1H NMR (270 MHz, CDCl3) δ 1.62 (2H, m, CH2), 1.83 (3H, m, CH2+NH), 2.35 (1H, tt, J=11.6, 3.7 Hz, CH), 2.62 (2H, br t, CH2), 3.20 (2H, br d, J=12.3 Hz, CH2), 6.80 (1H, td, ArH), 6.92 (2H, AA′BB′, ArH), 6.98 (1H, td, ArH), 7.11 (1H, td, ArH), 7.29 (1H, AA′BB′, ArH), 7.71 (1H, br s, NHCO) and 8.41 (1H, br d, J=7.9 Hz, ArH).

reactant | 4-[2-(4-chlorophenoxy)phenylcarbamoyl]piperidine-1-carboxylic acid tert-butyl ester | 0.95 mmol, 410 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C(NC1=C(C=CC=C1)OC1=CC=C(C=C1)Cl)=O | C23H27ClN2O4
solvent | HCl | 4M | Cl | ClH
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | piperidine-4-carboxylic acid [2-(4-chlorophenoxy)phenyl]amide | 233 mg, 74% | ClC1=CC=C(OC2=C(C=CC=C2)NC(=O)C2CCNCC2)C=C1 | C18H19ClN2O2
